US08735322B2
To a solution of 2-(4′-chloro-4-methylbiphenyl-3-yl)-5-[1,3]dioxolan-2-ylmethylcyclohexane-1,3-dione (0.275 g, 0.69 mmol) in tetrahydrofuran (5 ml) is added 6M hydrochloric acid (2 ml), and the reaction mixture is stirred at room temperature for 1.5 hours. Additional 6M hydrochloric acid (1 ml) is added and the solution is heated at 50° C. for an additional 2 hours. After cooling to room temperature the reaction mixture is concentrated and the residue partitioned between distilled water (20 ml) and dichloromethane (20 ml). After extraction of the aqueous phase with dichloromethane (3×10 ml) all organic fractions are combined then passed through a phase separator. The fitrate is concentrated in vacuo to afford [4-(4′-Chloro-4-methylbiphenyl-3-yl)-3,5-dioxocyclohexyl]-acetaldehyde as a white foam.

reactant | 2-(4′-chloro-4-methylbiphenyl-3-yl)-5-[1,3]dioxolan-2-ylmethylcyclohexane-1,3-dione | 0.69 mmol, 0.275 g | ClC1=CC=C(C=C1)C1=CC(=C(C=C1)C)C1C(CC(CC1=O)CC1OCCO1)=O | C23H23ClO4
reactant | hydrochloric acid | 6M, 2 ml | Cl | ClH
reactant | hydrochloric acid | 6M, 1 ml | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | [4-(4′-Chloro-4-methylbiphenyl-3-yl)-3,5-dioxocyclohexyl]-acetaldehyde | ClC1=CC=C(C=C1)C1=CC(=C(C=C1)C)C1C(CC(CC1=O)CC=O)=O | C21H19ClO3
